*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e-01[uF]/50[V]
* Murata P/N :GRM155R61H104ME19
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61H104ME19 Port1 Port2
C01 Port1 N01 1.00e-07
R01 Port1 N01 5.00e+08
L02 N01 N02 1.90e-10
R03 N02 N03 1.45e-02
C04 N03 N04 1.66e-05
R04 N03 N04 2.40e+02
C05 N04 N05 2.70e-05
R05 N04 N05 1.99e+01
C06 N05 N06 2.63e-05
R06 N05 N06 2.57e+00
C07 N06 N07 3.51e-05
R07 N06 N07 4.36e-01
C08 N07 N08 2.13e-05
R08 N07 N08 1.05e-01
C09 N08 N09 2.83e-05
R09 N08 N09 2.00e-02
C10 N09 N10 2.15e-05
R10 N09 N10 6.21e-03
L11 N10 N11 2.56e-11
R11 N10 N11 1.24e-01
L12 N11 N12 1.01e-10
R12 N11 N12 5.99e-02
C13 N12 N13 6.75e-07
L13 N12 N13 1.37e-11
R13 N12 N13 9.69e-03
C14 N13 N14 2.76e-07
L14 N13 N14 1.76e-11
R14 N13 N14 1.58e-02
C15 N14 Port2 1.01e-11
L15 N14 Port2 2.30e-11
R15 N14 Port2 2.18e+00
.ENDS GRM155R61H104ME19
